US09303023B2
1-[2-(5,6-Dimethoxy-indol-1-yl)-ethyl]-1H-pyrazol-4-ylamine
A solution of 1-(2-(5,6-dimethoxyindolin-1-yl)ethyl)-1H-pyrazol-4-amine (1.36 g, 4.70 mmol) in acetone (10 mL) was added dropwise to a suspension of MnO2 (817 mg, 9.41 mmol) in aceton (10 mL). The resulting dark reaction mixture was stirred at rt overnight, then filtered over celite, washed with acetone and the filtrate was concentrated under reduced pressure. Purification was performed by FC (DCM/MeOH 98:2→95:5) to yield the title compound as a brown oil. LC-MS conditions B: tR=0.41 min, [M+H]+=287.18.

reactant | 1-(2-(5,6-dimethoxyindolin-1-yl)ethyl)-1H-pyrazol-4-amine | 4.70 mmol, 1.36 g | COC=1C=C2CCN(C2=CC1OC)CCN1N=CC(=C1)N | C15H20N4O2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | aceton | 10 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 9.41 mmol, 817 mg | O=[Mn]=O
product | 1-[2-(5,6-Dimethoxy-indol-1-yl)-ethyl]-1H-pyrazol-4-ylamine | COC=1C=C2C=CN(C2=CC1OC)CCN1N=CC(=C1)N | C15H18N4O2
